US05969140
To a solution of 1-(2-chloro-4-pyridyl)-2,2-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene (3.34 g) in dimethylformamide (150 ml) is added sodium hydride (0.4 g) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. To the reaction mixture is added dropwise cyclopentyl bromide (1.8 ml), and the mixture is heated with stirring at 80° C. overnight. The mixture is heated at 130° C. for two hours. To the resultant are added chloroform and water, and the chloroform layer is separated, washed, dried, and concentrated under reduced pressure to remove the solvent. The residue is crystallized from 1-(2-chloro-4-pyridyl)-2,3-bis(methoxycarbonyl)-6-cyclopentyloxy-7-methoxynaphthalene (1.24 g, yield; 32%).

reactant | 1-(2-chloro-4-pyridyl)-2,2-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene | 3.34 g | ClC1=NC=CC(=C1)C1C(C=CC2=CC(=C(C=C12)OC)O)(C(=O)OC)C(=O)OC | C20H18ClNO6
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | cyclopentyl bromide | 1.8 ml | C1(CCCC1)Br | C5H9Br
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2-chloro-4-pyridyl)-2,3-bis(methoxycarbonyl)-6-cyclopentyloxy-7-methoxynaphthalene | 1.24 g, yield; 32% | ClC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC1CCCC1)C(=O)OC)C(=O)OC | C25H24ClNO6
